US08754225B2
Step C: Biphenyl-2-yl-carbamic acid 1-[2-(benzyloxycarbonyl methylamino)ethyl]piperidin-4-yl Ester
The product from the previous step (in MeTHF) and biphenyl-2-yl-carbamic acid piperidin-4-yl ester (10.0 kg, 32.6 mol, 1.0 eq.) in MeTHF (28.5 kg) were placed in the reaction vessel and heated to 30° C. for one hour. The mixture was then cooled to 5° C. NaHB(OAc)3 (10.0 kg, 45.8 mol, 1.4 eq.) was added portion wise over a period of 40 minutes while maintaining the temperature below 20° C. The mixture was then stirred for 30 minutes. Additional NaHB(OAc)3 (0.5 kg) was added the reaction allowed to progress to completion. A saturated solution of NaHCO3 (14.3 kg, 15.3 mol, 1.1 volumes) was added and stirred for 10 minutes. The aqueous phase was separated and discarded. A 33% NaOH solution (15.8 kg, 129.9 mol, 4.0 eq.) was added to the reaction mixture to adjust the pH to be in the range of 8-12. Water (40 kg) was added in two portions, after which phase separation occurred. A saturated NaHCO3 (7.1 kg, 7.6 mol, 0.7 volumes) was added to the reaction mixture and stirred for 10 minutes. The aqueous phase was separated and discarded. Additional water (4.9 kg) was added to dissolve any remaining salts and a vacuum distillation was conducted at a maximum temperature of 45° C. to remove part of the solvent (7.2 volumes). MeOH (56.1 kg, 7.2 volumes) was added to the reaction mixture before continuing with the next step.

reactant | biphenyl-2-yl-carbamic acid piperidin-4-yl ester | 32.6 mol, 10.0 kg, 1.0 eq. | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
reactant | NaHCO3 | 15.3 mol, 14.3 kg | C(=O)(O)[O-].[Na+]
reactant | NaOH | 129.9 mol, 15.8 kg, 4.0 eq. | [OH-].[Na+]
reactant | Water | 40 kg | O | H2O
reactant | NaHCO3 | 7.6 mol, 7.1 kg | C(=O)(O)[O-].[Na+]
solvent | MeTHF | CC1CCCO1 | C5H10O
solvent | MeTHF | 28.5 kg | CC1CCCO1 | C5H10O
product | Biphenyl-2-yl-carbamic acid 1-[2-(benzyloxycarbonyl methylamino)ethyl]piperidin-4-yl Ester | C(C1=CC=CC=C1)OC(=O)CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C29H33N3O4
